Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath

 
Major Surgical or Invasive Procedure:
___:
1. A ___ Maze procedure with left atrial appendage
    resection.
2. Mitral valve repair with plication of posterior mitral
    leaflet and placement of a 30 ___ II
    annuloplasty ring.

 
History of Present Illness:
fibrillation, cardiomyopathy, congestive heart failure, and 
mitral regurgitation. A recent echocardiogram demonstrated 
worsening of her mitral regurgitation to severe. A cardiac 
catheterization on ___ revealed coronary artery disease 
involving the ___ diagonal branch. There was severe left
ventricular dysfunction, severe mitral regurgitation, and 
dilated
left atrium and ventricle. She was referred to Dr. ___
surgical consultation. 

She was recently treated for congestive heart failure. She noted 
fatigue, dyspnea on exertion, palpitations, orthopnea, and lower 
extremity edema. She was started on Lasix. Since starting Lasix  
her lower extremity edema has improved and orthopnea has 
resolved. She has had a few episodes of mild chest pain which 
she attributed to anxiety. She denied syncope, dizziness,
lightheadedness, or paroxysmal nocturnal dyspnea. 
 
Past Medical History:
Atrial Fibrillation
Cardiomyopathy
Cervical Dysplasia
Congestive Heart Failure, Acute Systolic
Coronary Artery Disease
Hypothyroid
Lyme Disease, treated
Mitral Regurgitation
Mitral Valve Prolapse
Pulmonary Embolism, ___ in setting of OCP use
Past Surgical History:
Cervical Reconstruction 

 
Social History:
___
Family History:
Father - history of hypertension and TIA, died of complications
related to Alzheimer's (PNA), age ___
Mother - history of stroke, died following respiratory
complications of heart valve replacement at age ___
Sister - mitral valve repair three weeks ago
Sister - palpitations

 
Physical ___:
Vital Signs sheet entries for ___: 
BP: 142/84 (___). Heart Rate: 58. O2 Sat%: 99 (RA). Pain Score: 
0.
Height: 64"  Weight: 144 lbs

General: Pleasant woman, WDWN, NAD
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign
Neck:  Supple, full ROM 
Chest: Lungs clear bilaterally 
Heart: Irregularly irregular rhythm, III/VI holosystolic murmur
radiating to apex 
Abdomen: Normal BS, soft, ___ 
Extremities: Warm, ___, trace bilateral edema  
Varicosities: None
Neuro: Grossly intact 
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit: transmitted murmur

 
Pertinent Results:
___ 04:55AM BLOOD ___ 
___ Plt ___
___ 04:17AM BLOOD ___ 
___ Plt ___
___ 10:26AM BLOOD ___ ___
___ 04:55AM BLOOD ___ ___
___ 12:07PM BLOOD ___ ___
___ 04:17AM BLOOD ___ ___
___ 05:24AM BLOOD ___ 
___ Plt ___
___ 03:00AM BLOOD ___ 
___ Plt ___
___ 01:55PM BLOOD ___ ___
___ 05:24AM BLOOD ___ ___
___ 03:00AM BLOOD ___ ___
___ 02:00PM BLOOD ___ ___
___ 05:24AM BLOOD ___ 
___
___ 03:00AM BLOOD ___ 
___

___ TEE
LEFT ATRIUM: Dilated ___. No mass/thrombus in the ___. Good 
(>20 cm/s) ___ ejection velocity. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Dilated RA. A catheter or 
pacing wire is seen in the RA and extending into the RV. No ASD 
by 2D or color Doppler. 
LEFT VENTRICLE: Normal LV wall thickness. Mildly dilated LV 
cavity. Low normal LVEF. [Intrinsic LV systolic function likely 
depressed given the severity of valvular regurgitation.] 
___ variability on LVEF ___ to irregular 
rhythm/premature beats. 
RIGHT VENTRICLE: Mildly dilated RV cavity. Normal RV systolic 
function. 
AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. Focal calcifications in aortic arch. 
Simple atheroma in descending aorta. 
AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 
MITRAL VALVE: Myxomatous mitral valve leaflets. Moderate/severe 
MVP. Abnormal mitral valve. Severe (4+) MR. ___ to the eccentric 
MR jet, its severity may be underestimated (Coanda effect). 
TRICUSPID VALVE: Mildly thickened tricuspid valve leaflets. 
Moderate [2+] TR. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflets. 
Mild PR. 
PERICARDIUM: No pericardial effusion. 

REGIONAL LEFT VENTRICULAR WALL MOTION:   
Basal InferoseptalBasal AnteroseptalBasal Anterior
Basal InferiorBasal InferolateralBasal Anterolateral  Mid 
InferoseptalMid AnteroseptalMid Anterior
Mid InferiorMid InferolateralMid Anterolateral  Septal 
ApexAnterior Apex
Inferior ApexLateral Apex  Apex  
 
___: 
The left atrium is dilated. No mass/thrombus is seen in the left 
atrium or left atrial appendage. The right atrium is dilated. No 
atrial septal defect is seen by 2D or color Doppler. Left 
ventricular wall thicknesses are normal. The left ventricular 
cavity is mildly dilated. Overall left ventricular systolic 
function is low normal (LVEF ___. [Intrinsic left 
ventricular systolic function is likely more depressed given the 
severity of valvular regurgitation.] There is considerable 
___ variability of the left ventricular ejection 
fraction ___ to an irregular rhythm/premature beats. The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion. There is no aortic valve 
stenosis or aortic regurgitation. The mitral valve leaflets are 
myxomatous. There is moderate/severe posterior (P2) leaflet 
mitral valve prolapse and anterior leaflet billowing. Severe 
(4+) mitral regurgitation is seen with two regurgitant jets. One 
jet is ___ and eccentric (Coanda effect); the 
second is ___. The tricuspid valve leaflets are 
mildly thickened with mild annular dilation. Moderate [2+] 
tricuspid regurgitation is seen. There is no pericardial 
effusion. 

___
The patient is in sinus rhythm and receiving epinephrine (0.03 
mcg/kg/min), milrinone (0.125 mcg/kg/min) and phenylephrine 
infusions.
1. LV systolic function is ___ on inotropic support.
2. RV systolic function remains preserved.
3. The mitral valve has been repaired with an 30 mm annuloplasty 
ring. There is no residual mitral regurgitation. Peak gradient 
across the repaired valve is 12 mmHg; mean gradient is 4 mmHg.
4. Tricuspid regurgitation remains moderate.
5. The thoracic aorta is intact following decannulation.
 

 
Brief Hospital Course:
The patient was brought to the Operating Room on ___ where the 
patient underwent A ___ Maze procedure with left atrial 
appendage resection and mitral valve repair with plication of 
posterior mitral leaflet and placement of a 30 ___ 
II annuloplasty ring. Overall the patient tolerated the 
procedure well and ___ was transferred to the CVICU 
in stable condition for recovery and invasive monitoring. POD 1 
found the patient extubated, alert and oriented and breathing 
comfortably. The patient was neurologically intact and 
hemodynamically stable. Beta blocker was initiated and the 
patient was gently diuresed toward the preoperative weight. She 
remained in sinus rhythm for the remainder of her hospital 
course on Lopressor and Amiodarone per MAZE protocol. The 
patient was transferred to the telemetry floor for further 
recovery. Chest tubes and pacing wires were discontinued without 
complication. Coumadin was started for atrial fibrillation 
(Eliquis preop) and INR became supratherapeutic after 1 dose. 
She required a dose of Vitamin K x 2 for INR 5.0. It had 
decreased to INR 1.7. Coumadin dose was reduced to 1 mg for INR 
goal ___ patient was evaluated by the physical therapy 
service for assistance with strength and mobility. By the time 
of discharge on POD 4 the patient was ambulating freely, the 
wound was healing and pain was controlled with oral analgesics. 
Oxycodone was changed to Ultram per patient request ___ to 
feeling "spacey" with Oxycodone. The patient was discharged home 
with visiting nurse services in good condition with appropriate 
follow up instructions. Coumadin will be followed up with the 
cardiac surgery office until follow up can be arranged with PCP.
 
Medications on Admission:
Cardizem 120 mg tablet daily
Eliquis 5 mg tablet twice daily 
Folgard 2,000 ___ mg tablet daily
Furosemide 20 mg tablet daily 
Levothyroxine 125 mcg tablet daily
Losartan 50 mg tablet daily
Metoprolol Tartrate 25 mg tablet twice daily
Multivitamin tablet daily 
Simvastatin 40 mg tablet daily  

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Amiodarone 400 mg PO BID 
RX *amiodarone 200 mg 2 tablet(s) by mouth twice a day Disp 
#*100 Tablet Refills:*0 
3.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*100 Tablet Refills:*0 
4.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth twice a day Disp #*60 Tablet Refills:*0 
5.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth Q 6 hours Disp 
#*60 Tablet Refills:*0 
6.  Warfarin 1 mg PO DAILY16 
Take 1 mg Coumadin or as directed for INR goal ___ for atrial 
fibrillation 
RX *warfarin [Coumadin] 1 mg 1 tablet(s) by mouth daily Disp 
#*60 Tablet Refills:*0 
7.  Metoprolol Tartrate 37.5 mg PO TID 
RX *metoprolol tartrate 37.5 mg 1 tablet(s) by mouth three times 
a day Disp #*90 Tablet Refills:*0 
8.  Levothyroxine Sodium 125 mcg PO DAILY  
9.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atrial Fibrillation
Cardiomyopathy
Cervical Dysplasia
Congestive Heart Failure, Acute Systolic
Coronary Artery Disease
Hypothyroid
Lyme Disease, treated
Mitral Regurgitation
Mitral Valve Prolapse
Pulmonary Embolism, ___ in setting of OCP use

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

Edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
 Please NO lotions, cream, powder, or ointments to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

 
Followup Instructions:
___